US05248691
The appropriate arylcarboxylic acid is synthesized by the coupling of indole-2-carboxylic acid, benzofuran-2-carboxylic acid or benzothiophene-2-carboxylic acid with ethyl 5-amino-aryl-2-carboxylate in DMF with EDCI, and saponification of the ester. Ethyl 5-aminoindole-2-carboxylate is formed by catalytic hydrogenation of ethyl 5-nitroindole-2-carboxylate (Parmerter, S. M.; Cook, A. G.; Dixon, W. B. J. Am. Chem. Soc. 1958, 80, 4621). Ethyl 5-aminobenzothiophene-2-carboxylate can be synthesized as described in: Zambias, R. A.; Hammond, M. L. J. Syn. Commun. 1991, 21, 959. Ethyl 5-aminobenzofuran-2-carboxylate is prepared from the commercially available 5-nitrobenzofuran-2-carboxylic acid.

reactant | Ethyl 5-aminobenzothiophene-2-carboxylate | NC=1C=CC2=C(C=C(S2)C(=O)OCC)C1 | C11H11NO2S
reactant | 5-nitrobenzofuran-2-carboxylic acid | [N+](=O)([O-])C=1C=CC2=C(C=C(O2)C(=O)O)C1 | C9H5NO5
product | Ethyl 5-aminobenzofuran-2-carboxylate | NC=1C=CC2=C(C=C(O2)C(=O)OCC)C1 | C11H11NO3
